.subckt NMOS D G S B l=1.0 w=6.0 m=4 dm=1 
XMAIN   D G S B sg13_lv_nmos l={l} w={w} m={m}
XDUMMY1 B B B B sg13_lv_nmos l={l} w={w} m={dm}
.ends NMOS

.subckt DIFF_PAIR VP VN VDD1 VDD2 VTAIL B
X0 VDD1 VP VTAIL B NMOS l=1.0 w=6.0 m=4 dm=1
X1 VDD1 VP VTAIL B NMOS l=1.0 w=6.0 m=4 dm=1
X2 VDD2 VN VTAIL B NMOS l=1.0 w=6.0 m=4 dm=1
X3 VDD2 VN VTAIL B NMOS l=1.0 w=6.0 m=4 dm=1
.ends DIFF_PAIR

.subckt CMIRROR VREF VCOPY VSS VB l=2.0 w=6.0 m=1 
XA VREF VREF VSS VB sg13_lv_nmos l={l} w={w} m={m}
XB VCOPY VREF VSS VB sg13_lv_nmos l={l} w={w} m={m}
XDUMMY VB VB VB VB sg13_lv_nmos l={l} w={w} m={2}
.ends CMIRROR

.subckt INPUT_STAGE VP VN VDD1 VDD2 IBIAS VSS B
X0 VP VN VDD1 VDD2 wire0 B DIFF_PAIR
X1 IBIAS wire0 VSS VSS CMIRROR l=2.0 w=6.0 m=4
.ends INPUT_STAGE

.subckt DIFF_TO_SINGLE VIN VOUT VSS VSS2 l=1.0 w=6.0 mt=8 mb=12 
XTOP1 V1   VIN VSS  VSS sg13_lv_pmos l={l} w={w} m={mt}
XTOP2 VSS2 VIN VSS  VSS sg13_lv_pmos l={l} w={w} m={mt}
XBOT1 VIN  VIN V1   VSS sg13_lv_pmos l={l} w={w} m={mb}
XBOT2 VOUT VIN VSS2 VSS sg13_lv_pmos l={l} w={w} m={mb}
.ends DIFF_TO_SINGLE

.subckt PMOS D G S B l=1.0 w=7.0 m=30 dm=3 
XMAIN   D G S B sg13_lv_pmos l={l} w={w} m={m}
XDUMMY1 B B B B sg13_lv_pmos l={l} w={w} m={dm}
XDUMMY2 B B B B sg13_lv_pmos l={l} w={w} m={dm}
.ends PMOS

.subckt DIFF_TO_SINGLE_CS VIN1 VIN2 VOUT VSS VSS2
X0 VIN1 VIN2 VSS VSS2 DIFF_TO_SINGLE l=1.0 w=6.0 mt=8 mb=12
X1 VOUT VIN2 VSS VSS PMOS l=1.0 w=7.0 m=30 dm=3
X2 VOUT VIN2 VSS VSS PMOS l=1.0 w=7.0 m=30 dm=3
.ends DIFF_TO_SINGLE_CS

.subckt MIMCap V1 V2 l=1 w=1
X1 V1 V2 cap_cmim l={l} w={w}
.ends MIMCap

.subckt MIMCAP_ARR V1 V2
X0 V1 V2 MIMCap l=12.0 w=12.0
X1 V1 V2 MIMCap l=12.0 w=12.0
X2 V1 V2 MIMCap l=12.0 w=12.0
X3 V1 V2 MIMCap l=12.0 w=12.0
X4 V1 V2 MIMCap l=12.0 w=12.0
X5 V1 V2 MIMCap l=12.0 w=12.0
.ends MIMCAP_ARR

.subckt GAIN_STAGE VIN1 VIN2 VOUT VDD IBIAS GND
X0 VIN1 VIN2 VOUT VDD wire0 DIFF_TO_SINGLE_CS
X1 IBIAS VOUT GND GND CMIRROR l=2.0 w=6.0 m=4
X2 VOUT wire0 MIMCAP_ARR
.ends GAIN_STAGE

.subckt OPAMP_TWO_STAGE VDD GND DIFFPAIR_BIAS VP VN CS_BIAS VOUT
X0 VP VN wire0 wire1 DIFFPAIR_BIAS GND GND INPUT_STAGE
X1 wire0 wire1 VOUT VDD CS_BIAS GND GAIN_STAGE
.ends OPAMP_TWO_STAGE